US06022884
EXAMPLE 15 Preparation of 2,6-Dichloro-N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-N-methyl-benzamide
2-(4-Chloro-2-methyl-phenoxy)-5-(N-methylamino)pyridine (32 mg, 0.13 mmol) dissolved in methylene chloride (0.25 mL) was treated with triethylamine (0.026 mL, 0.18 mmol) followed by a solution of 2,6-dichlorobenzoyl chloride (31 mg, 0.15 mmol) dissolved in methylene chloride (0.15 mL). The reaction mixture was shaken at 22° C. for 18 hours followed by quenching with saturated aqueous NH4Cl and stirring for an additional 5 hours. The organic layer was separated and dried over Na2SO4 then concentrated in vacuo. The crude product was purified by chromatography on SiO2 using 1:1 ethyl acetate/hexane as eluent. MS (m/z): 422/424 (M+H)+ ; C20H15N2O2Cl3 requires 422.

reactant | 2-(4-Chloro-2-methyl-phenoxy)-5-(N-methylamino)pyridine | 0.13 mmol, 32 mg | ClC1=CC(=C(OC2=NC=C(C=C2)NC)C=C1)C | C13H13ClN2O
reactant | triethylamine | 0.18 mmol, 0.026 mL | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoyl chloride | 0.15 mmol, 31 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | methylene chloride | 0.25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.15 mL | C(Cl)Cl | CH2Cl2
product | 2,6-Dichloro-N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-N-methyl-benzamide | ClC1=C(C(=O)N(C)C=2C=NC(=CC2)OC2=C(C=C(C=C2)Cl)C)C(=CC=C1)Cl | C20H15Cl3N2O2
